US08071584B2
5-Bromo-3-(2,2-dimethyl-tetrahydro-thiopyran-4-yl)-1H-indole-7-carboxylic acid methyl ester
To a solution of 2,2-Dimethyl-tetrahydro-thiopyran-4-one (7.9 g, 55.1 mmol) in DCM (100 mL) was added TMSOTf (10 mL, 55.1 mmol) and 5-Bromo-1H-indole-7-carboxylic acid methyl ester (7.0 g, 27.6 mmol) at 0° C. After 2 hours, Et3SiH (15 mL, 110 mmol) was added at 0° C., then the mixture was stirred for 18 hours. The reaction mixture was quenched with sat. Sodium bicarbonate solution, extracted with DCM (3×100 mL). The combined organic layer was dried over MgSO4 and concentrated under vacuum. The residue was purified by column chromatography on silica gel (PE:EA=50:1 to 30:1) to give the title compound as a light yellow solid (5.5 g, 52%).

reactant | 2,2-Dimethyl-tetrahydro-thiopyran-4-one | 55.1 mmol, 7.9 g | CC1(SCCC(C1)=O)C | C7H12OS
reactant | TMSOTf | 55.1 mmol, 10 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 5-Bromo-1H-indole-7-carboxylic acid methyl ester | 27.6 mmol, 7.0 g | COC(=O)C=1C=C(C=C2C=CNC12)Br | C10H8BrNO2
reactant | Et3SiH | 110 mmol, 15 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-3-(2,2-dimethyl-tetrahydro-thiopyran-4-yl)-1H-indole-7-carboxylic acid methyl ester | 5.5 g, 52% | COC(=O)C=1C=C(C=C2C(=CNC12)C1CC(SCC1)(C)C)Br | C17H20BrNO2S
